US07915250B2
3-[1-Azido-2-(1,3-dioxolan-2-yl)ethyl]-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol (24 mg, 0.041 mmol) was dissolved in tetrahydrofuran (0.5 mL) and treated with 5% aqueous hydrochloric acid (0.5 mL) at ambient for 15 h. The misture was neutralised with saturated sodium bicarbonate solution and was extracted twice with ethyl acetate. The combined organic portion was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford 3-azido-3-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]propanal (21 mg, 0.0385 mmol) which was suspended in ethanol (2 mL) and treated with sodium borohydride (5 mg, 0.132 mmol) at ambient for 2 h. The mixture was quenched with acetic acid (4 drops) and concentrated in vacuo. The residue was partitioned between saturated sodium bicarbonate solution and ethyl acetate. The aqueous portion was extracted with ethyl acetate. The combined organic portion was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Column chromatography (silica gel, 70-80% ethyl acetate in hexanes) gave 3-(1-azido-3-hydroxypropyl)-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol (14 mg, 0.0255 mmol, 62% yield from 3-[1-azido-2-(1,3-dioxolan-2-yl)ethyl]-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol): 1H NMR (400 MHz, CDCl3): 8.33 (br s, 1H), 7.40 (dd, 1H), 7.32 (br d, 1H), 7.13 (br t, 1H), 6.83 (br q, 1H), 6.61 (ddd, 1H), 4.32-3.94 (m, 4H), 3.92-3.84 (m, 1H), 3.82-3.71 (m, 2H), 2.56 (br, 1H), 1.94 (br, 2H), 1.26 (br, 1H); MS (EI) for C19H17F3IN5O3: 548 (MH+).

reactant | 3-[1-Azido-2-(1,3-dioxolan-2-yl)ethyl]-1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidin-3-ol | 0.041 mmol, 24 mg | N(=[N+]=[N-])C(CC1OCCO1)C1(CN(C1)C(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)O | C21H19F3IN5O4
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | 3-azido-3-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-3-hydroxyazetidin-3-yl]propanal | 0.0385 mmol, 21 mg | N(=[N+]=[N-])C(CC=O)C1(CN(C1)C(=O)C1=C(C(=C(C=C1)F)F)NC1=C(C=C(C=C1)I)F)O | C19H15F3IN5O3
